US06911447B2
Preparation of 2-amino-4-(tert-butyldimethylsilanyloxy)butyric acid (52):
Imidazole (20.4 g, 300 mmol) is added to a solution of homoserine (11.9 g, 100 mmol) in DMF (100 mL) and the solution is stirred 15 minutes then cooled to 0° C. tert-Butyldimethylsilyl chloride (13.7 g, 91 mmol) added and the mixture is stirred for ten minutes at 0° C. the for 4 hours at room temperature. The reaction mixture is poured into water (3 L) and the resulting solid is collected by filtration. The isolated product is dried and used without further purification.

reactant | Imidazole | 300 mmol, 20.4 g | N1C=NC=C1 | C3H4N2
reactant | homoserine | 100 mmol, 11.9 g | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | tert-Butyldimethylsilyl chloride | 91 mmol, 13.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | 3 L | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-amino-4-(tert-butyldimethylsilanyloxy)butyric acid | NC(C(=O)O)CCO[Si](C)(C)C(C)(C)C | C10H23NO3Si
